US07176322B2
9-Ethyl-6-methoxycarbazole-3-carboxylic acid ethyl ester
A solution of 6-methoxycarbazole-3-carboxylic acid ethyl ester (1.28 g, 4.77 mmol) in DMF (8 mL) was added to a suspension of sodium hydride (60% in mineral oil, 0.286 mg, 7.15 mmol) in DMF at 0° C. The reaction was stirred for 30 minutes then ethyl iodide was added (0.89 g, 5.72 mmol). The reaction was allowed to reach room temperature and was stirred for further 15 hours then was diluted with NH4Cl sat. and water. The reaction was extracted with tert-butylmethyl ether and the organic phase was washed with water then brine. The organic layer was dried over sodium sulfate and the solvent concentrated in vacuo to give a crude which was purified by column (10% ethyl acetate/hexane) to afford 0.79 g of the title compound.

reactant | 6-methoxycarbazole-3-carboxylic acid ethyl ester | 4.77 mmol, 1.28 g | C(C)OC(=O)C=1C=CC=2NC3=CC=C(C=C3C2C1)OC | C16H15NO3
reactant | sodium hydride | 7.15 mmol, 0.286 mg | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
solvent | water | O | H2O
product | 9-Ethyl-6-methoxycarbazole-3-carboxylic acid ethyl ester | 0.79 g | C(C)OC(=O)C=1C=CC=2N(C3=CC=C(C=C3C2C1)OC)CC | C18H19NO3
